US07199147B2
Under a nitrogen atmosphere, 1M-hydrochloric acid-diethyl ether (249 μl, 0.249 mmol) was added to a solution of {trans-2-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine (53.8 mg, 0.207 mmol) in 2-propanol (1 ml) at room temperature. After 1 hour, the reaction solution was concentrated under reduced pressure and the resulting residue was crystallized from 2-propanol/acetonitrile to obtain {trans-2-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine hydrochloride (49.4 mg, 81%).

reactant | hydrochloric acid diethyl ether | 0.249 mmol, 249 μl | Cl.C(C)OCC
reactant | {trans-2-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine | 0.207 mmol, 53.8 mg | CC1=C2C=NNC2=CC=C1O[C@H]1[C@@H](CCCC1)CN | C15H21N3O
solvent | 2-propanol | 1 ml | CC(C)O | C3H8O
product | {trans-2-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine hydrochloride | 49.4 mg, 81% | Cl.CC1=C2C=NNC2=CC=C1O[C@H]1[C@@H](CCCC1)CN | InChI=1S/C15H21N3O.ClH/c1-10-12-9-17-18-13(12)6-7-14(10)19-15-5-3-2-4-11(15)8-16;/h6-7,9,11,15H,2-5,8,16H2,1H3,(H,17,18);1H/t11-,15+;/m0./s1
